US07307076B2
a) 7-acetyl-4-benzyloxy-3H-benzoxazol-2-one
41 mL phenyl chloroformate are added dropwise to a solution of 47 g (183 mmol) 1-(3-amino-4-benzyloxy-2-hydroxy-phenyl)-ethanone (known from U.S. Pat. No. 4,460,581) in 135 mL pyridine, whereupon the temperature rises to 75° C. The mixture is stirred for 4 hours at 90-95° C., poured onto ice and acidified with hydrochloric acid. The precipitated solid is suction filtered, washed with diethyl ether and heated in 500 mL 95% acetonitrile for 30 minutes at reflux temperature. After cooling the solid is filtered off and washed with acetonitrile and diethyl ether.

reactant | phenyl chloroformate | 41 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 1-(3-amino-4-benzyloxy-2-hydroxy-phenyl)-ethanone | 183 mmol, 47 g | NC=1C(=C(C=CC1OCC1=CC=CC=C1)C(C)=O)O | C15H15NO3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 135 mL | N1=CC=CC=C1 | C5H5N
product | 7-acetyl-4-benzyloxy-3H-benzoxazol-2-one | C(C)(=O)C1=CC=C(C=2NC(OC21)=O)OCC2=CC=CC=C2 | C16H13NO4
